US06884821B1
1.1 g of 4-hydroxybenzotrifluoride and 1.0 g of 2-methoxyphenetyl alcohol were dissolved in 200 ml tetrahydrofuran. 2.6 g of triphenyl phosphine and 2.0 g of diisopropyl azodicarboxylate were added thereto, followed by stirring at room temperature for 24 hours. After evaporating the solvent, the residue was subjected to silica gel column chromatography, to give 1.6 g of 1-methoxy-2-{2-[4-(trifluoromethyl)phenoxy]ethyl}benzene was obtained from fractions eluted with hexane-ethyl acetate (10:1).

reactant | 4-hydroxybenzotrifluoride | 1.1 g | OC1=CC=C(C=C1)C(F)(F)F | C7H5F3O
reactant | 2-methoxyphenetyl alcohol | 1.0 g | COC1=C(C=CC(=C1)OCC)O | C9H12O3
reactant | triphenyl phosphine | 2.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diisopropyl azodicarboxylate | 2.0 g | N(=NC(=O)OC(C)C)C(=O)OC(C)C | C8H14N2O4
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 1-methoxy-2-{2-[4-(trifluoromethyl)phenoxy]ethyl}benzene | 1.6 g | COC1=C(C=CC=C1)CCOC1=CC=C(C=C1)C(F)(F)F | C16H15F3O2
